US07732463B2
A solution of 1-fluoro-3-methoxy-benzene (10.0 g, 79.3 mmol) in dry THF (100 mL) was treated with n-butyl lithium (1.6M in hexane, 49.8 mL, 79.3 mmol) at −78° C. for five hours. A solution of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (15.8 g, 79.3 mmol) in THF (50 mL) was added at a rate so that the temperature was maintained below −5° C., and the reaction mixture was allowed to warm to rt and stirred overnight. Saturated aqueous ammonium chloride (50 mL) followed by ethyl acetate (10 mL) was added. The organic layer was washed with saturated aqueous ammonium chloride (50 mL), dried over magnesium sulfate, and evaporated in vacuo to afford the crude product. Purification by chromatography over silica gel (eluent: ethyl acetate/heptane 1:1) provided 7.80 g (31%) of 4-(2-fluoro-6-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester. A solution of this compound in acetic acid (70 mL) was treated with concentrated aqueous hydrochloric acid (30 mL) at reflux overnight. The volatiles were removed in vacuo, and the residue was partitioned between methylene chloride (100 mL) and a mixture of saturated aqueous sodium bicarbonate (100 mL) and aqueous sodium hydroxide (10%, to adjust pH to 11). The organic layer was dried over magnesium sulfate and the volatiles were removed in vacuo. The residue was refluxed overnight in a mixture of 33% hydrogen bromide in acetic acid (10 mL) and concentrated aqueous hydrobromic acid (20 mL). Approximately 15 mL of the solvent was removed in vacuo and the residue was cooled on an icebath for 3 h to precipitate 4.10 g (59% overall) of 4-(5-fluoro-2-methoxy-phenyl)-1,2,3,6-tetrahydro-pyridine as the hydrobromic acid salt. A slurry of this compound (4.10 g, 14.2 mmol) in 1,2-dichloro-ethane (100 mL) and triethyl amine (2.3 mL) is stirred at rt for 30 min before Boc2O (2.78 g, 14.0 mmol) was added. After stirring overnight, the precipitate was filtered off, and the filtrate is washed with saturated aqueous ammonium chloride (50 mL) and dried over magnesium sulfate. The volatiles were removed in vacuo to yield 1.02 g (23%) of 4-(2-fluoro-6-hydroxy-phenyl)-1,2,3,6-tetrahydro-pyridine-1-carboxylic acid tert-butyl ester. This material was dissolved in a mixture of ethyl acetate (10 mL) and ethanol (40 mL) and treated overnight with 5% Pd/C (0.1 g) and hydrogen gas (3 bar) using a Parr shaker apparatus. The catalyst was removed by filtration, and the volatiles were removed in vacuo. The residue (1.0 g) was suspended in 1,2-dichloro-ethane (20 mL) and treated with ethyl-di-iso-propyl-amine (0.53 g, 4.1 mmol) at 0° C. for 30 min before 1,1,2,2,3,3,4,4,4-nonafluoro-butane-1-sulfonyl fluoride (1.12 g, 3.7 mmol) was added and stirring was continued overnight at rt. The precipitate was filtered off, and the filtrate was washed with water (20 mL), dried over magnesium sulfate, and evaporated to afford the crude product. Purification by chromatography over silica gel (eluent: ethyl acetate/heptane 1:4) provided 1.27 g (65% over two steps) of 4-[2-fluoro-6-(nonafluorobutane-1-sulfonyloxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester. A mixture of this compound (1.27 g, 2.2 mmol) and sodium tert-butoxide (0.27 g, 2.9 mmol) in dry toluene (25 mL) was added to a solution of Pd2dba3 (0.10 g, 0.11 mmol) and DPEphos (0.12 g, 0.22 mmol) in dry toluene (25 mL). Tri-iso-propyl-silanethiol (0.42 g, 2.2 mmol) was added, and the mixture was stirred for 5 h at 100° C. After cooling to rt, the crude mixture was washed with water (50 mL), dried over magnesium sulfate, and the volatiles were removed in vacuo. The residue was purified by chromatography over silica gel (eluent: ethyl acetate/heptane 1:4) to yield 0.8 g (78%) of 4-(2-fluoro-6-tri-iso-propylsilanylsulfanyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester.

reactant | 1-fluoro-3-methoxy-benzene | 79.3 mmol, 10.0 g | FC1=CC(=CC=C1)OC | C7H7FO
reactant | n-butyl lithium | 79.3 mmol, 1.6M, 49.8 mL | C(CCC)[Li]
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 79.3 mmol, 15.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-fluoro-6-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 7.80 g, 31% | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC=C1OC)F | C17H24FNO4
